US05939451
1.15 g (0.003 mol) of N-[4-(2-bromo-6-methyl-pyridin-4-ylsulfamoyl)-phenyl]-acetamide were dissolved in 15 ml of 2N NaOH and boiled at reflux for 1 hour. After cooling the mixture was acidified to pH 5 with 2N HCl and the colourless precipitate which separated was filtered off. The material on the suction filter was washed with copious water and dried. There was obtained 0.95 g (93%) of 4-amino-N-(2-bromo-6-methyl-pyridin-4-yl)-benzenesulfonamide as colorless crystals; m.p.: >110° C. (dec.).

reactant | N-[4-(2-bromo-6-methyl-pyridin-4-ylsulfamoyl)-phenyl]-acetamide | 0.003 mol, 1.15 g | BrC1=NC(=CC(=C1)NS(=O)(=O)C1=CC=C(C=C1)NC(C)=O)C | C14H14BrN3O3S
reactant | HCl | 2N | Cl | ClH
solvent | NaOH | 2N, 15 ml | [OH-].[Na+]
product | 4-amino-N-(2-bromo-6-methyl-pyridin-4-yl)-benzenesulfonamide | 0.95 g, 93% | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=NC(=C1)C)Br | C12H12BrN3O2S
